US07288548B2
(3S,4S)-3-[2-(4-Methoxy-benzyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester (Compound 110)
To 3.41 g of 2-(4-methoxy-benzyl)-2,8-diaza-spiro[4.5]decan-1-one hydrochloride (12.3 mmol) in dichloromethane (50 mL) was added triethylamine (1.71 mL, 12.3 mmol) followed by 3.85 g of (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester (12.3 mmol) in dichloromethane (75 mL) and stirred for 1 h at room temperature. Sodium triacetoxyborohydride (3.91 g, 18.4 mmol) was then added and the reaction mixture stirred overnight at room temperature.

reactant | 2-(4-methoxy-benzyl)-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | 12.3 mmol, 3.41 g | Cl.COC1=CC=C(CN2C(C3(CC2)CCNCC3)=O)C=C1
reactant | triethylamine | 12.3 mmol, 1.71 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 12.3 mmol, 3.85 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C=O | C16H21NO3
reactant | Sodium triacetoxyborohydride | 18.4 mmol, 3.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (3S,4S)-3-[2-(4-Methoxy-benzyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN1CCC2(CCN(C2=O)CC2=CC=C(C=C2)OC)CC1 | C32H43N3O4
